US08536214B2
(R)—N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (30 mg, 0.11 mmol) was dissolved in DCM (5 mL) and thionyl chloride (66 mg, 0.57 mmol) was added. The reaction mixture was stirred at room temperature for 1 h before being concentrated to dryness. The whole was dissolved in DMF (2 mL) and 2-(3-(trifluoromethyl)-1H-pyrazol-4-yl)propan-2-ol (21.6 mg, 0.11 mmol) was added followed by potassium carbonate (30.8 mg, 0.22 mmol). The reaction mixture was stirred at room temperature overnight before being quenched with water (2 mL) and the organics extracted with EtOAc (3×5 mL). The combined organics were washed with brine, dried (MgSO4) and concentrated under reduced pressure. Purification by preparative basic HPLC gave (R)—N-(5-((4-(2-hydroxypropan-2-yl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (9.6 mg, 0.022 mmol, 19.4%). MS (ESI): m/z [M+H]+ 446.5

reactant | (R)—N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.11 mmol, 30 mg | OCC=1C=C2C[C@@H](CC2=CC1)NS(=O)(=O)C(C)C | C13H19NO3S
reactant | thionyl chloride | 0.57 mmol, 66 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(3-(trifluoromethyl)-1H-pyrazol-4-yl)propan-2-ol | 0.11 mmol, 21.6 mg | FC(C1=NNC=C1C(C)(C)O)(F)F | C7H9F3N2O
reactant | potassium carbonate | 0.22 mmol, 30.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-((4-(2-hydroxypropan-2-yl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.022 mmol, 9.6 mg, 19.4% | OC(C)(C)C=1C(=NN(C1)CC=1C=C2C[C@@H](CC2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C20H26F3N3O3S
